US08791161B2
2-{[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]thio}-N-methylacetamide
Following General Procedure G, the title compound was prepared from N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis[4-chloro-3-(trifluoromethyl)benzenesulfonamide] Intermediate 5 and 2-chloro-N-methyl-acetamide.

reactant | N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis[4-chloro-3-(trifluoromethyl)benzenesulfonamide] | ClC=1C=CC(=C(C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)SSC1=C(C=C(C=C1)Cl)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C26H14Cl4F6N2O4S4
reactant | 2-chloro-N-methyl-acetamide | ClCC(=O)NC | C3H6ClNO
product | 2-{[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]thio}-N-methylacetamide | ClC1=CC(=C(C=C1)SCC(=O)NC)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C16H13Cl2F3N2O3S2
